US08404719B2
Potassium phosphate (1.38 g, 6.5 mmol), palladium(II) acetate (56 mg, 0.25 mmol), and (R)-1-[(S)-2-(dicyclohexylphosphino)ferrocenyl]ethyl-di-tert-butylphosphine (139 mg, 0.25 mmol) were combined in a microwave tube under nitrogen. Ethyl 3-bromobenzoate (1.145 g, 5 mmol) in dimethoxyethane (2 mL) and isopropylamine (385 mg, 6.5 mmol) in dimethoxyethane (2 mL) were added. The tube was filled with nitrogen again. The tube was then capped, and the reaction mixture was heated in a microwave oven (Biotage Initiator™ 2.0, 0 to 100 watts) with stirring at 160° C. for 70 minutes. Then dichloromethane was added, and the crude mixture was filtered. The filtrate was concentrated. The residue was purified by chromatography on silica gel (hexane/ethyl acetate=7:1) to give ethyl 3-(isopropylamino)benzoate.

reactant | Potassium phosphate | 6.5 mmol, 1.38 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Ethyl 3-bromobenzoate | 5 mmol, 1.145 g | BrC=1C=C(C(=O)OCC)C=CC1 | C9H9BrO2
reactant | isopropylamine | 6.5 mmol, 385 mg | C(C)(C)N | C3H9N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dimethoxyethane | 2 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 2 mL | C(OC)COC | C4H10O2
catalyst | palladium(II) acetate | 0.25 mmol, 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 3-(isopropylamino)benzoate | C(C)(C)NC=1C=C(C(=O)OCC)C=CC1 | C12H17NO2
